US08242260B2
Step 1. Preparation of 5-bromo-3-methoxy-2-methylaniline
This material was prepared from 5-bromo-1-methoxy-2-methyl-3-nitrobenzene following the procedure used for SM-9, step 2: LCMS(m/z): 216.0 (MH+); tR=0.65 minute.

reactant | 5-bromo-1-methoxy-2-methyl-3-nitrobenzene | BrC=1C=C(C(=C(C1)OC)C)[N+](=O)[O-] | C8H8BrNO3
reactant | 2-chloro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | ClC1=C(N)C=CC=C1B1OC(C(O1)(C)C)(C)C | C12H17BClNO2
product | 5-bromo-3-methoxy-2-methylaniline | BrC=1C=C(C(=C(N)C1)C)OC | C8H10BrNO
